US05247085
(S)-9-[3-(t-Butyldiphenylsilyloxy)-2-(diethoxyphosphorylmethoxy)propoxy]adenine (0.61 g, 1 mmol) was dissolved in trifluoroacetic acid/water, 2:1 (6 ml) and the solution stirred at ambient temperature for 3 hours. Hexane (10 ml) was added and the mixture shaken. The aqueous phase was separated, washed once more with hexane (10 ml) and evaporated to dryness. The residue was treated with ethanolic ammonia solution (5 ml), at ambient temperature, for 5 minutes after which the solution was evaporated to dryness. The residue was chromatographed on silica gel using dichloromethane/methanol 90:10 as eluant to give (R)-9-[2-(diethoxyphosphorylmethoxy)-3-hydroxypropoxy]adenine as a colourless oil (0.3 g, 80%) which on prolonged standing, crystallised as white needles m.p. 98°-102°. IR: νmax (film) 3340, 3210, 2995, 2930, 2910, 1660, 1645, 1600, 1470, 1445, 1415, 1395, 1370, 1330, 1300, 1240, 1210, 1165, 1125, 1045. 1020, 980, 825, 95, 735 cm-1. 1H NMR: δH [(CD3)2SO] 1.23 (6H, t, J=7 Hz (OCH2CH3)2), 3.5-3.7 (2H, m, CH2OH), 3.75-3.85 (1H, m, CH), 3.95-4.15 (6H, m, (OCH2CH3)2, OCH2P), 4.38 (1H, dd, J=11.3 Hz, J=6.6 Hz, NOCHB), 4.55 (1H, dd, J= 11.3 Hz, J=3.0 Hz, NOCHA), 4.88 (1H, t, J=5.5 Hz, D2O exchangeable OH), 7.38 (2H, br.s., D2O exchangeable NH2), 8.15 (1H, s, H-2 or H-8), 8.43 (1H, s, H-2 or H-8). Found: C, 39.26; H, 6.05; N, 17.33%. C13H22N5O6P 1.25 H2O requires: C, 39.25; H, 6.20; N, 17 61%. m/z: (FAB, thioglycerol matrix) 376 (MH+).

reactant | (S)-9-[3-(t-Butyldiphenylsilyloxy)-2-(diethoxyphosphorylmethoxy)propoxy]adenine | 1 mmol, 0.61 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@H](CON1C2=NC=NC(=C2N=C1)N)OCP(=O)(OCC)OCC | C29H40N5O6PSi
reactant | Hexane | 10 ml | CCCCCC | C6H14
solvent | trifluoroacetic acid water | FC(C(=O)O)(F)F.O
product | (R)-9-[2-(diethoxyphosphorylmethoxy)-3-hydroxypropoxy]adenine | 0.3 g, 80% | C(C)OP(=O)(OCC)CO[C@@H](CON1C2=NC=NC(=C2N=C1)N)CO | C13H22N5O6P
